US05574097
Acetoxymethyl 2-methacryloyloxyethyl Carbonate
To a solution of acetoxymethyl chloroformate (1.00 g, 0.0066 mol) and 2-hydroxyethyl methacrylate (0.86 g, 0.0066 mol) in methylene chloride (30 ml), pyridine (0.52 g, 0.0066 mol) was added at 0° C. After 10 min at 0° C. and 18 hours at 25° C. the reaction mixture was washed with aqueous hydrochloric acid (100 ml), aqueous saturated sodium hydrogen carbonate (100 ml) and water (100 ml). The solvent was removed under reduced pressure after drying (MgSO4). Flash chromatography (silicagel, hexane/ethyl acetate (3:2)) gave 1.05 g (65%) of the title product.

reactant | acetoxymethyl chloroformate | 0.0066 mol, 1.00 g | ClC(=O)OCOC(C)=O | C4H5ClO4
reactant | 2-hydroxyethyl methacrylate | 0.0066 mol, 0.86 g | C(C(=C)C)(=O)OCCO | C6H10O3
reactant | pyridine | 0.0066 mol, 0.52 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | Acetoxymethyl 2-methacryloyloxyethyl Carbonate | 1.05 g, 65% | C(OCOC(C)=O)(OCCOC(C(=C)C)=O)=O | C10H14O7
